US05330990
2 - Amino-N-methoxyiminome thylbenzene
2-(N-methoxyiminomethyl)-nitrobenzene (6.5 g) in 350 ml 99.9% ethanol was reduced catalytically at room temperature, 1 atm. using 0.7 g 10% Pd on carbon. Upon completion of the reduction the solution was filtered throughfilter aid and concentrated in vacuo. The product was redissolved in methylene chloride and filtered through silicagel. Evaporation of the solvent gave the desired product as an oil.

reactant | 2-(N-methoxyiminomethyl)-nitrobenzene | 6.5 g | CON=CC1=C(C=CC=C1)[N+](=O)[O-] | C8H8N2O3
solvent | ethanol | 350 ml | C(C)O | C2H6O
catalyst | Pd on carbon | 0.7 g | [Pd] | Pd
product | 2 - Amino-N-methoxyiminome thylbenzene | NC1=C(C=CC=C1)C=NOC | C8H10N2O
